US08013010B2
2-Fluoro-4-(4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 4-bromo-2-fluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VI, and 4-pyridineboronic acid, the expected product is obtained in the form of a white solid with a yield of 51%.

reactant | 4-bromo-2-fluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=C(C=C2)Br)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H18BrFO7S
reactant | 4-pyridineboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 2-Fluoro-4-(4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 51% | C(C)(=O)O[C@H]1[C@H](OC2=C(C=C(C=C2)C2=CC=NC=C2)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H22FNO7S
